US07615643B2
Methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-hydroxy-2-thiophenecarboxylate
A solution of methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate (15 g, 3.4 mmol) in 10 ml of TFA was heated to 50° C. After 6 h, the reaction was concentrated. The residue was dissolved in MeOH and neutralized with 7N ammonia in MeOH. The slurry was diluted with ether and filtered. The solid was washed with water and air-dried to give 1.0 g of the title compound (85%).

reactant | methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-[(phenylmethyl)oxy]-2-thiophenecarboxylate | 3.4 mmol, 15 g | BrC1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)OCC2=CC=CC=C2)C=C1 | C20H15BrN2O3S
solvent | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl 5-(5-bromo-1H-benzimidazol-1-yl)-3-hydroxy-2-thiophenecarboxylate | 1.0 g, 85% | BrC1=CC2=C(N(C=N2)C2=CC(=C(S2)C(=O)OC)O)C=C1 | C13H9BrN2O3S
